US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 1, using 2.30 g (9.99 mmol) of 4-amino-1-(4-methylbenzyl)-5-imidazolecarboxamide prepared in the same manner as in Example 87 and 4-fluorobenzoyl chloride instead of benzoyl chloride to obtain 2.26 g of 4-(4-fluorobenzoylamino)-1-(4-methylbenzyl)-5-imidazole carboxamide (yield 64%).

reactant | 4-amino-1-(4-methylbenzyl)-5-imidazolecarboxamide | 9.99 mmol, 2.30 g | NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)C | C12H14N4O
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-(4-fluorobenzoylamino)-1-(4-methylbenzyl)-5-imidazole carboxamide | 2.26 g, yield 64% | FC1=CC=C(C(=O)NC=2N=CN(C2C(=O)N)CC2=CC=C(C=C2)C)C=C1 | C19H17FN4O2
